US09216980B2
9-Benzenesulfonyl-5-ethyl-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
A mixture of 9-benzenesulfonyl-5-vinyl-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (60 mg 0.16 mmol) and 10% palladium on carbon (20 mg) in THF (4 mL) and IMS (3 mL) was stirred under an atmosphere of hydrogen for 3 h. The reaction vessel was then purged with nitrogen then the reaction mixture was filtered through celite. The celite pad was washed with DCM and then ethyl acetate and the combined filtrate was concentrated in vacuo to yield the title compound as a beige solid (60 mg, 99%). LCMS (Method B): RT=3.78 min, M+H+=363.

reactant | 9-benzenesulfonyl-5-vinyl-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.16 mmol, 60 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3C=C)C#N)C=CC=N2 | C19H12N4O2S
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 9-Benzenesulfonyl-5-ethyl-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 60 mg, 99% | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3CC)C#N)C=CC=N2 | C19H14N4O2S
